US09422279B2
To a solution of 1-tert-butyl 4-ethyl 3-oxopiperidine-1,4-dicarboxylate (2.0 g, 7.37 mmol) in DCM (45 mL) was added DIPEA (1.54 ml, 8.84 mmol) and Tf2O (1.36 mL, 8.11 mmol) at −78° C., then the temperature was warmed up to room temperature and the solution was stirred at RT for 1.5 h, the mixture was diluted with DCM (100 mL), organic layer was washed with Sat. NaHCO3, brine, dried and concentrated to give 1-(tert-butyl) 4-ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydropyridine-1,4(2H)-dicarboxylate, which was used for next step without purification.

reactant | 1-tert-butyl 4-ethyl 3-oxopiperidine-1,4-dicarboxylate | 7.37 mmol, 2.0 g | O=C1CN(CCC1C(=O)OCC)C(=O)OC(C)(C)C | C13H21NO5
reactant | DIPEA | 8.84 mmol, 1.54 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Tf2O | 8.11 mmol, 1.36 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butyl) 4-ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydropyridine-1,4(2H)-dicarboxylate | FC(S(=O)(=O)OC1=C(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC)(F)F | C14H20F3NO7S
